US07977364B2
3-cyclohexyl-2-(6-hydroxy-1H-indazol-3-yl) propanenitrile
3-cyclohexyl-2-(6-methoxy-1H-indazol-3-yl) propanenitrile (1.61 g, 5.68 mmol) was dissolved in CH2Cl2 and cooled with an ice bath. BBr3/CH2Cl2 1M (8.6 ml, 8.52 mmol) was added to this mixture, which was stirred at 50° C., then poured onto saturated NaHCO3 solution, extracted with ethylacetate, dried over Na2SO4, filtered, concentrated under vacuum and purified by flash chromatography (CH2Cl2/MeOH 98/2). Crystallisation from EtOH gave 780 mg of white crystals (51%). mp 175° C.

reactant | 3-cyclohexyl-2-(6-methoxy-1H-indazol-3-yl) propanenitrile | 5.68 mmol, 1.61 g | C1(CCCCC1)CC(C#N)C1=NNC2=CC(=CC=C12)OC | C17H21N3O
reactant | BBr3 CH2Cl2 | 8.52 mmol, 1M, 8.6 ml | B(Br)(Br)Br.C(Cl)Cl
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-cyclohexyl-2-(6-hydroxy-1H-indazol-3-yl) propanenitrile | 780 mg, 51% | C1(CCCCC1)CC(C#N)C1=NNC2=CC(=CC=C12)O | C16H19N3O
